US06056895
40.4 g of 2-(4-propylidenecyclohexyl)ethanol, 69.5 g of triphenylphosphine and 500 ml of acetonitrile were cooled to -5° C. A solution of 99.5 g of tetrabromomethane in 100 ml of acetonitrile was then added with stirring, and the mixture was stirred at RT overnight. The solvent was then removed, and the residue was subjected to conventional work-up, giving 1-(2-bromo-ethyl)-4-propylidenecyclohexane.

reactant | 2-(4-propylidenecyclohexyl)ethanol | 40.4 g | C(CC)=C1CCC(CC1)CCO | C11H20O
reactant | triphenylphosphine | 69.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 99.5 g | BrC(Br)(Br)Br | CBr4
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1-(2-bromo-ethyl)-4-propylidenecyclohexane | BrCCC1CCC(CC1)=CCC | C11H19Br
